US04239708
Preparation of 2-Chloro-3-methoxy-4-nitroaniline
A mixture of 2,5-dichloro-4-nitroaniline (7.0 g), phenol (3.2 g), potassium carbonate (9.7 g) and dry dimethylformamide (50 ml) is stirred and heated at 100° C. for 7.5 hours. The mixture is then poured into 500 ml of ice water and stirred. The aqueous mixture is extracted with ethyl acetate (5×200 ml), the extracts are dried and evaporated to dryness. The residual oil is stirred with methylene chloride (20 ml), the resulting solid is collected and dried to yield 3.5 g of title product, m.p. 122°-124° C.

reactant | 2,5-dichloro-4-nitroaniline | 7.0 g | ClC1=C(N)C=C(C(=C1)[N+](=O)[O-])Cl | C6H4Cl2N2O2
reactant | phenol | 3.2 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 9.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-Chloro-3-methoxy-4-nitroaniline | 3.5 g | ClC1=C(N)C=CC(=C1OC)[N+](=O)[O-] | C7H7ClN2O3
